US06982278B2
{3-Ethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)ethoxy]phenoxy}acetic acid ethyl ester
A mixture of 3-ethyl-4-[2-(5-methyl-2-phenyloxazole-4-yl)ethoxy]phenol (0.29 g. 0.90 mmol), ethyl bromoacetate. (0.25 mL, 2.25 mmol) and cesium carbonate (0.45 g, (1.38 mmol) in anhydrous DMF (4 mL) was heated for 24 h at 55° C. The mixture was concentrated in vacuo, and the residue was partitioned between EtOAc (50 mL) and water (40 mL), washed with brine, dried (Na2SO4), and removed in vacuo to give a crude oil which was purified using radial chromatography eluting with 2% EtOAc/MeCl2 to give a white solid (0.25 g, 68%): 1H NMR (400 MHz, CDCl3) δ 7.97 dd, J=8.3, 2.4 Hz, 2H), 7.45-7.39 (m, 3H), 6.75 (dd, J=8.3, 2.0 Hz, 2H), 2H), 6.64 (dd, J=8.8, 3.4 Hz, 1H), 4.55 (s, 2H), 4.24 (q, J=6.5 Hz, 2H), 4.10 (t, J=6.4 Hz, 2H), 2.97 (t, J=6.6 Hz, 2H), 2.57 (t, J=7.3 Hz, 2H), 2.37 (s, 3H), 1.29 (t, J=7.3 Hz, 3H), 1.12 (t, J=6.5 Hz, 3H); MS (ES) m/e 410 (M+1).

reactant | 3-ethyl-4-[2-(5-methyl-2-phenyloxazole-4-yl)ethoxy]phenol | 0.90 mmol, 0.29 g | C(C)C=1C=C(C=CC1OCCC=1N=C(OC1C)C1=CC=CC=C1)O | C20H21NO3
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | {3-Ethyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)ethoxy]phenoxy}acetic acid ethyl ester | 0.25 g, 68% | C(C)OC(COC1=CC(=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)CC)=O | C24H27NO5
